US05929085
(b) 1-(2-Hydroxyethyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride
To a suspension of 7-nitro-1,2,3,4-tetrahydroisoquinolin-1-acetic acid in anhydrous THF (20 ml) at 0° C. was added 1.0M borane in THF (25 ml). The reaction mixture was slowly warmed to ambient temperature and stirring was continued for 4 h. Since the reaction was not proceeding to completion, additional borane (10 ml) was added and the solution heated at reflux for 1 h. Upon cooling to ambient temperature, the reaction was quenched by the addition of methanol (1 ml) and 6M hydrochloric acid (5 ml). The solution was heated at reflux for 2 h to decompose any borate intermediates and the solvent concentrated at the rotoevaporator. The resulting oil was taken up in water, made basic with dilute NaOH, and extracted twice with dichloromethane. The dried (MgSO4) organic extracts were concentrated to give a solid. This solid was dissolved in hot ethanol (75 ml) and hydrochloric acid in ethanol added to give an acidic solution. The product was isolated by filtration of the precipitate to give the title compound as a light yellow solid (2.28 g, 84%), m.p. 238-40° C.

reactant | 7-nitro-1,2,3,4-tetrahydroisoquinolin-1-acetic acid | [N+](=O)([O-])C1=CC=C2CCNC(C2=C1)CC(=O)O | C11H12N2O4
reactant | borane | 1.0M | B | BH3
reactant | borane | 10 ml | B | BH3
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 1-(2-Hydroxyethyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride | 2.28 g, 84% | Cl.OCCC1NCCC2=CC=C(C=C12)[N+](=O)[O-] | InChI=1S/C11H14N2O3.ClH/c14-6-4-11-10-7-9(13(15)16)2-1-8(10)3-5-12-11;/h1-2,7,11-12,14H,3-6H2;1H
